US07754745B2
Step 2: N′-Hydroxy-2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboximidamide
A mixture of 2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carbonitrile (370 mg, 1.1 mmol), hydroxylamine hydrochloride (303 mg, 4.4 mmol) and sodium carbonate (231 mg, 2.2 mmol) in EtOH—H2O (4:1, 20 mL) was heated at 80° C. for 2 h. Solvent was evaporated in vacuo. The residue was diluted with H2O, extracted three times with EtOAc, dried (Na2SO4) and concentrated. Trituration with hexanes:Et2O (1:1) gave the title compound as white powder. 1H NMR (400 MHz, acetone-d6): δ 8.73 (s, 1 H), 7.66 (m, 2 H), 7.52 (s, 1 H), 7.38 (d, 1 H), 7.16 (t, 1 H), 5.46 (m, 3 H), 3.94-3.88 (m, 1 H), 3.75-3.59 (m, 3 H), 2.56-2.30 (m, 2 H).

reactant | 2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carbonitrile | 1.1 mmol, 370 mg | FC(C1=C(OC2CN(CC2)C=2SC(=CN2)C#N)C=CC=C1)(F)F | C15H12F3N3OS
reactant | hydroxylamine hydrochloride | 4.4 mmol, 303 mg | Cl.NO
reactant | sodium carbonate | 2.2 mmol, 231 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH—H2O | 20 mL | C(C)O.O
product | N′-Hydroxy-2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboximidamide | ON=C(N)C1=CN=C(S1)N1CC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C15H15F3N4O2S
